US05571810
A mixture of 3,4-difluorophenylacetic acid (10 g), 4-(methylthio)benzaldehyde (8.84 g) and sodium methoxide (3.14 g) in acetic anhydride (30 ml) was refluxed for 20 hours. The solvent was evaporated, and the residue was dissolved in ethyl acetate, washed with dilute hydrochloric acid and water, dried and concentrated to dryness. The obtained solid material was washed with ethanol and dried to give crystals of 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acrylic acid (12.1 g).

reactant | 3,4-difluorophenylacetic acid | 10 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | 4-(methylthio)benzaldehyde | 8.84 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | sodium methoxide | 3.14 g | C[O-].[Na+]
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acrylic acid | 12.1 g | FC=1C=C(C=CC1F)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H12F2O2S
